US07915332B2
To a 2 L three-necked round bottom flask equipped with overhead mechanical stirrer were added 1-chlorohexadecane (260 g, 1.00 moles), 1,2 dimethylimidazole (91.0 g, 0.95 moles), and CH3CN (500 mL) and the two-phase reaction mixture was vigorously stirred in an oil bath at 80° C. After 72 h, the reaction mixture was cooled to room temperature and the product was crystallized overnight. The crystallized solid was filtered, thoroughly washed with cold CH3CN, and vacuum dried at 70° C. for 3 days to give 1,2-dimethyl-3-hexadecylimidazolium chloride as a slightly off-white solid, 220 g, 62% yield.

reactant | 1-chlorohexadecane | 1.00 moles, 260 g | ClCCCCCCCCCCCCCCCC | C16H33Cl
reactant | 1,2 dimethylimidazole | 0.95 moles, 91.0 g | CN1C(=NC=C1)C | C5H8N2
solvent | CH3CN | 500 mL | CC#N | C2H3N
product | 1,2-dimethyl-3-hexadecylimidazolium chloride | 62% yield | [Cl-].C[N+]1=C(N(C=C1)CCCCCCCCCCCCCCCC)C | InChI=1S/C21H41N2.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-23-20-19-22(3)21(23)2;/h19-20H,4-18H2,1-3H3;1H/q+1;/p-1
